US07902369B2
4-(2-difluoromethyl-1-oxo-3,4-dihydroisoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole
After adding 20 mg of palladium carbon to 10 ml solution of ethanol with 7 mg of 4-(2-difluoromethyl-1-oxo-isoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole, hydrogen was added under 4 atm of hydrogen pressure. 8 hours later, the reaction solution was filtrated and after distilling out the solvents of the filtrate under reduced pressure, the residues were separated and purified by thin-layer chromatography (chloroform/methanol=10/1) to obtain 2 mg of the above compound as a white solid.

reactant | 4-(2-difluoromethyl-1-oxo-isoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole | 7 mg | FC(N1C(C2=CC=C(C=C2C=C1)C=1N=NN(C1C)C=1C(=NC=CC1)F)=O)F | C18H12F3N5O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 20 mg | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-difluoromethyl-1-oxo-3,4-dihydroisoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole | 2 mg | FC(N1C(C2=CC=C(C=C2CC1)C=1N=NN(C1C)C=1C(=NC=CC1)F)=O)F | C18H14F3N5O
